US06313126B1
3-(1,4-Dioxa-spiro[4,5]dec-8-yl)-5-cyano-1-ethyl-indole (5b)
To a suspension of sodium hydride (60%, 1.63 g, 0.068 mol) in anhydrous N,N-dimethylformamide (150 ml) was added 3-(1,4-dioxa-spiro[4,5]dec-8-yl)-5-cyano-1H-indole (9.0 g, 0.032 mol) at room temperature. The mixture was stirred for 30 minutes at room temperature then ethylbromide (14.6 g, 0.13 mol) was added at room temperature. The reaction was allowed to stir for overnight, then quenched with water (50 ml). The mixture was extracted with methylene chloride (3×150 ml) and water (3×150 ml). The organic layer was dried over anhydrous magnesium sulfate and filtered. The solvent was removed under vacuum. Chromatography (hexanes) afforded 5.5 g (69%) of product as a white solid: mp 124-126° C.

reactant | sodium hydride | 0.068 mol, 1.63 g | [H-].[Na+]
reactant | 3-(1,4-dioxa-spiro[4,5]dec-8-yl)-5-cyano-1H-indole | 0.032 mol, 9.0 g | O1CCOC12CCC(CC2)C2=CNC1=CC=C(C=C21)C#N | C17H18N2O2
reactant | ethylbromide | 0.13 mol, 14.6 g | C(C)Br | C2H5Br
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 3-(1,4-Dioxa-spiro[4,5]dec-8-yl)-5-cyano-1-ethyl-indole | 5.5 g, 69% | O1CCOC12CCC(CC2)C2=CN(C1=CC=C(C=C21)C#N)CC | C19H22N2O2
